US04897420
Bis[trans-6-(4-acetoxycyclohexyl)hexanoyl]peroxide (4.8 g) is reacted with 2,3-dimethoxy-5-methyl-1,4-benzoquinone (1.7 g) in the same manner as in Example 2. Crystallization from petroleum ether gives 814 mg of trans-6-[5-(4-acetoxycyclohexyl)pentyl]-2,3-dimethoxy-5-methyl-1,4-benzoquinone as orange crystals, m.p. 33°-34° C.

reactant | Bis[trans-6-(4-acetoxycyclohexyl)hexanoyl]peroxide | 4.8 g | C(C)(=O)O[C@@H]1CC[C@H](CC1)CCCCCC(=O)OOC(CCCCC[C@@H]1CC[C@H](CC1)OC(C)=O)=O | C28H46O8
reactant | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 1.7 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
product | trans-6-[5-(4-acetoxycyclohexyl)pentyl]-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 814 mg | C(C)(=O)O[C@@H]1CC[C@H](CC1)CCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C22H32O6
